US09315521B2
6-methyl-2-[(pyridin-2-ylmethyl)sulfanyl]pyrimidin-4-ol
As per procedure from Example 1, 2-(bromomethyl)pyridine hydrobromide and 6-methyl-2-sulfanylpyrimidin-4-ol were combined to provide the title compound as a white solid (86% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.68 (s, 3H), 4.47 (s, 2H), 6.00 (s, 1H), 7.25 (dd, 1H), 7.47 (d, 1H), 7.72 (dd, 1H), 8.50 (d, 1H); M+234.

reactant | 2-(bromomethyl)pyridine hydrobromide | Br.BrCC1=NC=CC=C1
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | CC1=CC(=NC(=N1)S)O | C5H6N2OS
product | 6-methyl-2-[(pyridin-2-ylmethyl)sulfanyl]pyrimidin-4-ol | 86% yield | CC1=CC(=NC(=N1)SCC1=NC=CC=C1)O | C11H11N3OS
